US09278940B2
A mixture of 2-(3-bromo-5-methoxyphenyl)-1,3-dioxane (4.75 g, 17.4 mmol), 1-isopropyl-piperazine (3.14 mL, 21.96 mmol), sodium-tert-butoxide (3.00 g, 31.3 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.342 g, 0.55 mmol) and tris(dibenzylideneacetone)dipalladium (0) (0.167 g, 0.18 mmol) in toluene (40 mL) was stirred at 100° C. for 18 h. After this time the reaction was cooled to rt and the dark brown mixture was poured into an ice-cold solution of 1N HCl (100 mL) and stirred vigorously for 2 h at rt. After this time the reaction mixture was re-cooled to 0° C. and the pH was adjusted to 13 with 6N NaOH solution. The reaction mixture was then extracted with diethyl ether. The organic phase was concentrated, taken up in 2N HCl (50 mL) and stirred for 1 h. The resulting mixture was extracted with dichloromethane (2×150 mL). The pH of the aqueous phase was adjusted to approximately 13 with 6N NaOH solution and extracted with diethyl ether (2×150 mL). The combined organic phase was washed with water, dried over anhydrous Na2SO4, and concentrated under reduced pressure to give 3-(4-isopropylpiperazin-1-yl)-5-methoxybenzaldehyde (1.24 g, 27%) as a viscous red oil: 1H NMR (400 MHz, CDCl3): δ 9.90 (s, 1H), 7.05 (dd, J=2.15, 1.37 Hz, 1H), 6.88 (dd, J=1.95, 1.17 Hz, 1H), 6.69 (t, J=2.34 Hz, 1H), 3.85 (s, 3H), 3.25-3.28 (m, 4H), 2.64-2.78 (m, 5H), 1.10 (d, J=6.64 Hz, 6H).

reactant | 2-(3-bromo-5-methoxyphenyl)-1,3-dioxane | 17.4 mmol, 4.75 g | BrC=1C=C(C=C(C1)OC)C1OCCCO1 | C11H13BrO3
reactant | 1-isopropyl-piperazine | 21.96 mmol, 3.14 mL | C(C)(C)N1CCNCC1 | C7H16N2
reactant | sodium-tert-butoxide | 31.3 mmol, 3.00 g | CC(C)([O-])C.[Na+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.55 mmol, 0.342 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | HCl | 1N, 100 mL | Cl | ClH
reactant | NaOH | 6N | [OH-].[Na+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.18 mmol, 0.167 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(4-isopropylpiperazin-1-yl)-5-methoxybenzaldehyde | 1.24 g, 27% | C(C)(C)N1CCN(CC1)C=1C=C(C=O)C=C(C1)OC | C15H22N2O2
